US05068264
Corresponding to Example 1, 774.3 g (6.00 mol) of N-2-aminoethylpiperazine in 300 ml of methanol were reacted with 120.0 g (2.00 mol) of methyl formate and 151.6 g (48% of theory) of N-2-aminoethyl-N'-formylpiperazine were obtained at 0.1 mm Hg between 115 and 120° C. in the form of a yellowish liquid

reactant | N-2-aminoethylpiperazine | 6.00 mol, 774.3 g | NCCN1CCNCC1 | C6H15N3
reactant | methyl formate | 2.00 mol, 120.0 g | C(=O)OC | C2H4O2
solvent | methanol | 300 ml | CO | CH4O
product | N-2-aminoethyl-N'-formylpiperazine | 151.6 g, 48% | NCCN1CCN(CC1)C=O | C7H15N3O
